US04409220
2-Amino-7-(p-chloro-benzoyl)-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine
This compound was prepared analogous to Example 29 from 2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine dihydrobromide and p-chloro-benzoyl chloride.

reactant | 2-amino-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine dihydrobromide | Br.Br.NC=1C=NC2=C(CCNCC2)N1
reactant | p-chloro-benzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 2-Amino-7-(p-chloro-benzoyl)-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine | NC=1C=NC2=C(CCN(CC2)C(C2=CC=C(C=C2)Cl)=O)N1 | C15H15ClN4O
